US03934008
17. H-Met-Leu-Gly-OH
6.9 g of BOC-Met-Leu-Gly-OH are dissolved in 70 ml of 90 % strength trifluoracetic acid and left to stand for one hour at 20°C. Thereafter the solution is concentrated, mixed with 150 ml of ether whilst stirring and left to stand overnight at -10°C. The resulting precipitate is filtered off and again stirred with 100 ml of ether, filtered off, twice washed with ether and dried in vacuo over sodium hydroxide. Melting point 134°-135°C; Rf7 = 0.52 (on silica gel).

reactant | BOC-Met-Leu-Gly-OH | 6.9 g | N([C@@H](CCSC)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C18H33N3O6S
solvent | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | H-Met-Leu-Gly-OH | N[C@@H](CCSC)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O | C13H25N3O4S
